US06307047B1
2-(3,4-Difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384 substituting 2-(3,4-difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 125 mg, 31%). mp 224-226° C. 1H NMR (300 MHz, DMSO-d6) δ 7.15 (d, 4H), 7.51 (m, 1H), 7.6 (m, 2H) 7.75 (m, 4H), 7.9 (t, 1H); 8.4 (s, 1H). MS (DCI/NH3) m/z 492 (M+H)+, 509 (M+NH4)+. Anal. calc. for C22H13F4N3O4S: C, 53.77; H, 2.67; N, 8.55. Found,; C, 53.33; H, 2.84; N, 8.22

reactant | 2-(3,4-difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)F)C1=CC(=C(C=C1)S(=O)(=O)C)F | C23H14F4N2O4S
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(4-fluorophenoxy)-5-[3-fluoro-4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OC1=CC=C(C=C1)F)C1=CC(=C(C=C1)S(=O)(=O)N)F | C22H13F4N3O4S
